US05968788
At present, PteGlu of folic acids is industrially produced through chemical synthesis. Briefly, three components of 2,4,5-triamino-6-hydroxypyrimidine, 1,1,3-trichloroacetone and p-aminobenzoylglutamic acid are condensed in the presence of sodium nitrite in a solution of sodium acetate to give a crude product of folic acid, PteGlu, and the product is purified through recrystallization.

reactant | 2,4,5-triamino-6-hydroxypyrimidine | NC1=NC(=C(C(=N1)N)N)O | C4H7N5O
reactant | 1,1,3-trichloroacetone | ClC(C(=O)CCl)Cl | C3H3Cl3O
reactant | p-aminobenzoylglutamic acid | NC1=CC=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C1 | C12H14N2O5
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | PteGlu | C1=CC(=CC=C1C(=O)N[C@@H](CCC(=O)O)C(=O)O)NCC2=CN=C3C(=N2)C(=O)N=C(N3)N | C19H19N7O6
